US06136810
Magnesium (18.6 g, 0.76 mol) was added to 500 ml of tetrahydrofuran in which 146.7 g (0.77 mol) of 3-bromochlorobenzene had been dissolved, followed by stirring at room temperature. Since exothermic reaction occurred, the stirring was continued until the exothermicity ceased. The reaction solution was cooled to -20° C., mixed with 33.9 g (0.15 mol) of 3-cyano-2-ethylamino-6-dimethoxymethylpyridine and then heated-overnight under reflux. The reaction solution was mixed with saturated ammonium chloride aqueous solution and extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. After removing magnesium sulfate by filtration, the solvent was evaporated under a reduced pressure to give crude 3-(3-chlorobenzoyl)-2-ethylamino-6-dimethoxymethylpyridine. The crude 3-(3-chlorobenzoyl)-2-ethylamino-6-dimethoxymethylpyridine was diluted with 500 ml of tetrahydrofuran, mixed with 6 N hydrochloric acid and then stirred at room temperature for 6 hours. The reaction mixture was adjusted to pH 10 with sodium hydroxide aqueous solution and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, magnesium sulfate was removed by filtration and then the resulting filtrate was concentrated under a reduced pressure. Thereafter, the resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 3-(3-chlorobenzoyl)-2-ethylaminopyridine-6-carbaldehyde. Reference Exampel 45

reactant | Magnesium | 0.76 mol, 18.6 g | [Mg] | Mg
reactant | 3-bromochlorobenzene | 0.77 mol, 146.7 g | BrC=1C=C(C=CC1)Cl | C6H4BrCl
reactant | 3-cyano-2-ethylamino-6-dimethoxymethylpyridine | 0.15 mol, 33.9 g | C(#N)C=1C(=NC(=CC1)C(OC)OC)NCC | C11H15N3O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | 3-(3-chlorobenzoyl)-2-ethylamino-6-dimethoxymethylpyridine | ClC=1C=C(C(=O)C=2C(=NC(=CC2)C(OC)OC)NCC)C=CC1 | C17H19ClN2O3
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 3-(3-chlorobenzoyl)-2-ethylaminopyridine-6-carbaldehyde | ClC=1C=C(C(=O)C=2C(=NC(=CC2)C=O)NCC)C=CC1 | C15H13ClN2O2
